US04435425
(C) Preparation of: 2-Difluoromethyl-4-phthalimido-butanoic acid
2-Difluoromethyl-2-(2-phthalimidoethyl)-propanedioic acid, bis tert.-butyl ester prepared as in Step B (0.610 g, 1.40 mM) is dissolved in trifluoroacetic acid (8 ml) at room temperature. After stirring for 1.5 hour at room temperature, the solvent is evaporated in vacuo yielding a white solid. The crude disubstituted malonic acid is dissolved in glacial acetic acid (20 ml) and the mixture is heated at 100° C. for 15 hours. The solvent is evaporated in vacuo yielding a yellowish oil. Crystallization in ether affords the required acid as a white solid (0.240 g, yield 60%). NMR (CDCl3 +CF3CO2H) 2.00-2.43 (m, 2H); 2.57-3.40 (m, 1H); 3.90 (t, JHH =7 Hz, 2H); 6.03 (td, JHF =55 Hz, JHH =4 Hz, 1H); 7.58-7.95 (m, 4H).

reactant | 2-Difluoromethyl-2-(2-phthalimidoethyl)-propanedioic acid, bis tert.-butyl ester | FC(C(C(=O)OC(C)(C)C)(C(=O)OC(C)(C)C)CCN1C(C=2C(C1=O)=CC=CC2)=O)F | C22H27F2NO6
solvent | trifluoroacetic acid | 8 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 2-Difluoromethyl-4-phthalimido-butanoic acid | 0.240 g, yield 60% | FC(C(C(=O)O)CCN1C(C=2C(C1=O)=CC=CC2)=O)F | C13H11F2NO4
